US08007526B2
2-Benzyloxy-N-[4-(2-benzyloxy-acetylamino)-phenyl]-acetamide
To a mixture of 1,4-phenylenediamine (10 grams, 92.47 mmol), sodium bicarbonate (15.46 grams, 184.07 mmol) in ethyl acetate (100 mL) at 0° C. is added benzyloxy acetyl chloride (23.19 grams, 125.71 mmol) drop wise. The reaction mixture is stirred at room temperature for 10 hours. The solids are filtered, and the ethyl acetate layer is washed with 5% sodium bicarbonate solution (2×25 mL), water (2×25 mL), dried over sodium sulfate, and distilled to get crude 3, which can be purified by suitable solvent.

reactant | 1,4-phenylenediamine | 92.47 mmol, 10 grams | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | sodium bicarbonate | 184.07 mmol, 15.46 grams | C([O-])(O)=O.[Na+]
reactant | benzyloxy acetyl chloride | 125.71 mmol, 23.19 grams | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-Benzyloxy-N-[4-(2-benzyloxy-acetylamino)-phenyl]-acetamide | C(C1=CC=CC=C1)OCC(=O)NC1=CC=C(C=C1)NC(COCC1=CC=CC=C1)=O | C24H24N2O4
